US05958942
i) Synthesis of 1,2-dihydro-1-[2-(piperidin-4-yl)ethan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride
To a solution prepared by dissolving 5.30 g (14.13 mM) of 1,2-dihydro-1-[2-(1-(tert-butoxycarbonyl)piperidin-4-yl)ethan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 50 ml of ethanol was added 5.88 ml (71.53 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and the crystals that formed were collected by filtration and rinsed with small amounts of ethanol and ether to provide 3.51 g (yield of 71.5%) of the title compound as white crystals.

reactant | 1,2-dihydro-1-[2-(1-(tert-butoxycarbonyl)piperidin-4-yl)ethan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 14.13 mM, 5.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1C(C=2N3C(C=CC=C13)=NC2)=O | C20H26N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,2-dihydro-1-[2-(piperidin-4-yl)ethan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride | 3.51 g, yield of 71.5% | Cl.Cl.N1CCC(CC1)CCN1C(C=2N3C(C=CC=C13)=NC2)=O | InChI=1S/C15H18N4O.2ClH/c20-15-12-10-17-13-2-1-3-14(19(12)13)18(15)9-6-11-4-7-16-8-5-11;;/h1-3,10-11,16H,4-9H2;2*1H
